US08293909B2
Step 3: Preparation of 3-(2-(4-fluorophenyl)-3-formylfuro[2,3-b]pyridin-5-yl)-N-(1-phenylcyclopropyl)benzamide.
AIBN (6.5 mg, 0.040 mmol) was added to a stirring solution of NBS (26 mg, 0.15 mmol) and 3-(2-(4-fluorophenyl)-3-methylfuro[2,3-b]pyridin-5-yl)-N-(1-phenylcyclopropyl)benzamide (61 mg, 0.13 mmol) in CCl4 (20 ml). The mixture was heated to 76° C. and allowed to stir for 2 hours. The reaction was concentrated and diluted with DMSO (1 mL) and treated with NMO (18.5 mg, 0.158 mmol) and subjected to MW irradiation (150° C.) for 10 min. The mixture was diluted with EtOAc and washed with 10% NaHSO4 2× followed by H2O and Brine. The organic phase was dried over Na2SO4, filtered and concentrated and was purified on silica gel (Biotage, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the expected product 3-(2-(4-fluorophenyl)-3-formylfuro[2,3-b]pyridin-5-yl)-N-(1-phenylcyclopropyl)benzamide (34 mg, 0.071 mmol, 54% yield) consistent by LCMS. LC-MS retention time: 1.64 min; m/z (MH+): 477. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | AIBN | 0.040 mmol, 6.5 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | NBS | 0.15 mmol, 26 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 3-(2-(4-fluorophenyl)-3-methylfuro[2,3-b]pyridin-5-yl)-N-(1-phenylcyclopropyl)benzamide | 0.13 mmol, 61 mg | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)NC3(CC3)C3=CC=CC=C3)C=CC2)O1)C | C30H23FN2O2
reactant | NMO | 0.158 mmol, 18.5 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2-(4-fluorophenyl)-3-formylfuro[2,3-b]pyridin-5-yl)-N-(1-phenylcyclopropyl)benzamide | 0.071 mmol, 34 mg, 54% yield | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)NC3(CC3)C3=CC=CC=C3)C=CC2)O1)C=O | C30H21FN2O3
